US06140274
First, 1.81 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene was added to a mixture of 10 ml of acetic acid and 1 ml of concentrated hydrochloric acid with stirring under ice cooling. After further stirring for 15 minutes, the reaction mixture was poured into water and extracted twice with diethyl ether. The diethyl ether layers were combined and washed with water, aqueous sodium hydrogencarbonate solution and then saturated sodium chloride solution. The combined diethyl ether layer was dried over magnesium sulfate, and the diethyl ether was distilled out, which afforded 1.51 g of 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetaldehyde (yield, 94%).

reactant | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene | 1.81 g | ClC=1C=C(C=C(C1OCCCCOCC(OCC)OCC)Cl)OCC=C(Cl)Cl | C19H26Cl4O5
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | water | O | H2O
product | 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-butyloxyacetaldehyde | 1.51 g, 94% | ClC1=C(OCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C15H16Cl4O4
